US08871756B2
tert-Butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamoyl}pyrrolidine-1-carboxylate
To a solution of 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (0.60 g, 1.6 mmol, prepared in analogy to the one in Example 2-1), tert-butyl 2-carbamoylpyrrolidine-1-carboxylate (0.34 g, 1.6 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride (0.13 g, 0.16 mmol), 1,1′-bis(diphenylphosphino)ferrocene (0.089 g, 0.16 mmol) and sodium tert-butoxide (0.307 g, 3.2 mmol) in 1,4-dioxane (25 mL) was heated with stirring for 1.5 hours at 120° C. under microwave irradiation. The reaction mixture was filtered and concentrated in vacuo. The residue was purified by preparative TLC (eluting with 50% ethyl acetate in petroleum ether, V/V=1:1) to give 250 mg of the desired product (yield was 29%).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | tert-butyl 2-carbamoylpyrrolidine-1-carboxylate | 1.6 mmol, 0.34 g | C(N)(=O)C1N(CCC1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | sodium tert-butoxide | 3.2 mmol, 0.307 g | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride | 0.16 mmol, 0.13 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.16 mmol, 0.089 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | tert-Butyl 2-{[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]carbamoyl}pyrrolidine-1-carboxylate | 250 mg, yield was 29% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(=O)C2N(CCC2)C(=O)OC(C)(C)C)C)=O | C29H34N4O5S
